US06825354B2
Ethyl(4-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate was prepared according to the general method as outlined in example 1 (step 1), starting from ethyl bromo(4-chlorophenyl)acetate (16.5 g, 59.6 mmol) and 4-mercaptophenol (7.5 g, 59.6 mmol); 18.8 g white solid. mp: 63° C.; Yield 97%; MS: 321.3 (M−H)−

reactant | ethyl bromo(4-chlorophenyl)acetate | 59.6 mmol, 16.5 g | BrC(C(=O)OCC)C1=CC=C(C=C1)Cl | C10H10BrClO2
reactant | 4-mercaptophenol | 59.6 mmol, 7.5 g | SC1=CC=C(C=C1)O | C6H6OS
product | Ethyl(4-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate | Yield 97% | C(C)OC(C(SC1=CC=C(C=C1)O)C1=CC=C(C=C1)Cl)=O | C16H15ClO3S
